US08871782B2
A solution of hydrogen chloride (55 mL of 1.2 M) in ethanol was added to tert-butyl 2-[(4-amino-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-yl)oxy]ethylcarbamate (3.98 g, 8.97 mmol), and the reaction was heated at reflux for one hour. The reaction mixture was allowed to cool to ambient temperature, and the solvent was removed under reduced pressure. The resulting yellow solid was dissolved in a small volume of water, and 10% aqueous sodium hydroxide was added to adjust to pH 13. The mixture was then extracted with dichloromethane (3×100 mL), and the combined extracts were washed sequentially with water and brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting solid was recrystallized from acetonitrile to provide 2.63 g of 8-(2-aminoethoxy)-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine as fine, peach-colored needles, mp 157-159° C.

reactant | hydrogen chloride | 1.2 M, 55 mL | Cl | ClH
reactant | tert-butyl 2-[(4-amino-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-yl)oxy]ethylcarbamate | 8.97 mmol, 3.98 g | NC1=NC=2C=CC(=CC2C2=C1N=C(N2CCC)COCC)OCCNC(OC(C)(C)C)=O | C23H33N5O4
solvent | ethanol | C(C)O | C2H6O
product | 8-(2-aminoethoxy)-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 2.63 g | NCCOC1=CC=2C3=C(C(=NC2C=C1)N)N=C(N3CCC)COCC | C18H25N5O2
